US07169803B2
(S)-2-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indoline-1-carbonyloxy)acetic acid (Ie2)
A solution of (S)-2-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indoline-1-carbonyloxy)acetic acid, benzyloxycarbonylmethyl ester (XII2) (95 mg, 0.17 mmol) in methanol (50 mL) was hydrogenated with Pd—C(10%) as catalyst at room temperature. Prep. HPLC purification afforded the title compound (42.4 mg) with 98% HPLC purity (yield 53.3%). 1H NMR (CDCl3, 500 MHz) δ 8.34 (s, 1H), 7.79 (d, 1H), 7.47 (d, 1H), 7.36 (dd, 1H), 7.31 (dd, 1H), 6.76 (dd, 1H), 5.08 (d, 1H), 4.96 (d, 1H), 3.57 (s, 3H); LC-MS, 462.88 (MH+, 99%); MS (m/e) 462 (M+1).

reactant | (S)-2-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indoline-1-carbonyloxy)acetic acid, benzyloxycarbonylmethyl ester | 0.17 mmol, 95 mg | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)C(=O)OCC(=O)OCC(=O)OCC1=CC=CC=C1)=O)F)OC | C28H20ClF4NO8
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd—C | [Pd] | Pd
product | (S)-2-(3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indoline-1-carbonyloxy)acetic acid | 42.4 mg, yield 53.3% | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)C(=O)OCC(=O)O)=O)F)OC | C19H12ClF4NO6
